US09388183B2
To a stirred solution pyrido[3,2-d]pyrimidin-4-ol (B-2) (16 g, 109 mmol, 1.0 eq) in DCM (200 mL) and DMF (0.4 mL) at RT, oxalyl chloride (23.2 mL, 272 mmol, 2.5 eq) is added dropwise (over 5 min) and the resulting mixture is stirred at reflux overnight. The mixture is allowed to cool to RT and concentrated in vacuo. The residue is diluted with water (200 mL), neutralized with saturated aqueous NaHCO3 solution below 10° C. to adjust the pH to 8-9 and then extracted with ethyl acetate (4×100 mL). The combined organic layers are washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated in vacuo. The residue is purified by flash column chromatography on silica gel (16-50% ethyl acetate-petroleum ether) to afford the product, 4-chloropyrido[3,2-d]pyrimidine (B-3).

reactant | pyrido[3,2-d]pyrimidin-4-ol | 109 mmol, 16 g, 1.0 eq | N1=CN=C(C2=C1C=CC=N2)O | C7H5N3O
reactant | oxalyl chloride | 272 mmol, 23.2 mL, 2.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 4-chloropyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC=N2 | C7H4ClN3
